Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
asthma exacerbation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w hx asthma p/w 2 weeks worsening cough and wheeze. 

Using home albuterol Q4h with some improvement but not 
resolution of symptoms. His son is sick at home with respiratory 
illness. Prior asthma care all in PR, patient denies hx 
intubation/ICU admission for asthma. Denies fever/chills, 
nausea/vomiting, chest pain, abdominal pain, dysuria. He did not 
get a flu shot this year. He recently traveled to ___ 
___. He smokes a few cigarettes a day, formerly 1ppd.

In the ED, initial vital signs were: 99.7 104 167/96 22 95% RA  
- Exam was notable for: "Tripod stance, short sentences, 
tachypneic, mentating fine. Lungs with diffuse wheeze/ronchi" 
- Labs were notable for: WBC 10.6, Cr 1.3 (unclear baseline). 
- Imaging: CXR with "no pna/ptx/effusion."
- The patient was given: solumedrol, duonebs, magnesium, IVF, 
azithromycin.
- Consults: None
- Per ED: :Looks clinically improved after stacked nebs, however 
lung exam minimally improved and satting 90% on RA."
Admitted to Medicine for asthma exacerbation.  
Vitals prior to transfer were: 98.5 101 134/92 20 98% RA.  

Upon arrival to the floor, he recounts hx above. Confirms never 
has been hospitalized/intubated before. Notes he has seasonal 
allergies that worsen in the ___. In past few days has had 
cough, rhinorrhea. Denies fevers, chest pain. Had dyspnea and 
wheezing on admission; both are dramatically improved after 
therapies in ED. Doesn't have asthma action plan, check peak 
flows at home, or have a pulmonologist or allergist here.

Also notes he was told by ED providers to tell us that he 
"snores very loudly" when he sleeps.   

============================ 
REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, chills, sweats, weight loss, dyspnea, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, 
hematochezia, dysuria, rash, paresthesias, and weakness.

 
Past Medical History:
-- asthma
-- seasonal allergies
 
Social History:
___
Family History:
Asthma - mother, brother, daughter
CAD - mother, grandmother
Kidney disease - grandmother
 
Physical ___:
ADMISSION PHYSICAL EXAM
VITALS: 99.3 155/93 111 20 95/3L
Genl: comfortable, NAD
HEENT: no icterus, PERRLA, MMM, no OP lesions
Neck: no JVP, no LAD
Cor: Tachycardic, regular, NMRG
Pulm: 3LNC in place. speaking in full sentences w/o accessory 
muscle use. lungs with diffuse expiratory wheezing lasting 
through the full exhalation. there is no expiratory 
prolongation. 
Abd: soft, ntnd
Neuro: AOx3, no focal sensory or motor deficits in bilat ___
MSK: ___ without edema, 2+ distal pulses
Skin: no obvious rashes or lesions on torso, UEs, ___

___ PHYSICAL EXAM
VITALS: Tm98.9 BP130s-151/70s-90 O2 98 RA
Genl: comfortable, NAD
HEENT: no icterus, PERRLA, MMM, no OP lesions
Neck: no JVP, no LAD
Cor: Tachycardic, regular, NMRG
Pulm: on room air, diffuse expiratory wheezing but breathing 
comfortably and speaking in full sentences 
Abd: soft, ntnd
Neuro: AOx3
MSK: ___ without edema, 2+ distal pulses
Skin: no obvious rashes or lesions on torso, UEs, ___
 
___ Results:
LABS ON ADMISSION
==========================
___ 06:36PM BLOOD WBC-10.8* RBC-5.46 Hgb-16.2 Hct-49.7 
MCV-91 MCH-29.7 MCHC-32.6 RDW-14.0 RDWSD-46.0 Plt ___
___ 06:36PM BLOOD Neuts-44.1 ___ Monos-9.8 
Eos-14.0* Baso-0.8 Im ___ AbsNeut-4.76 AbsLymp-3.35 
AbsMono-1.06* AbsEos-1.51* AbsBaso-0.09*
___ 06:36PM BLOOD Glucose-105* UreaN-18 Creat-1.3* Na-138 
K-4.0 Cl-102 HCO3-24 AnGap-16
___ 12:55PM BLOOD Calcium-9.2 Phos-2.4* Mg-2.4

LABS ON DISCHARGE
==========================
___ 06:53AM BLOOD WBC-13.4* RBC-4.60 Hgb-13.6* Hct-42.5 
MCV-92 MCH-29.6 MCHC-32.0 RDW-14.6 RDWSD-48.7* Plt ___
___ 06:53AM BLOOD Glucose-98 UreaN-16 Creat-1.1 Na-141 
K-3.8 Cl-107 HCO3-26 AnGap-12
___ 06:53AM BLOOD Calcium-9.2 Phos-4.8*# Mg-2.4

MICROBIOLOGY
==========================
___ flu PCR - 

IMAGING/STUDIES
==========================
___ CXR - 
The lungs are clear without focal consolidation.  No pleural 
effusion or pneumothorax is seen. The cardiac and mediastinal 
silhouettes are unremarkable. 

 
Brief Hospital Course:
___ hx asthma and seasonal allergies p/w asthma exacerbation and 
renal dysfunction on labs.
 
# Asthma exacerbation: Patient presented with symptoms 
consistent with an asthma exacerbation, possibly triggered by an 
upper respiratory infection or seasonal allergies. A CXR in the 
ED showed no focal consolidation. Flu swab negative. He was 
started on a steroid burst, as well as nubulizer treatments. The 
patient has so far had his asthma care in ___, and is 
not established with a PCP or pulmonologist in ___. He has 
post follow up scheduled with a new PCP and ___. He 
will complete a 7 day course of prednisone.

# Acute kidney injury, prerenal: Renal dysfunction with Cr of 
1.3 incidentally noted on labs. He received 1L of IVF, and his 
creatinine improved to 0.8 the following day. 

# Allergy symptoms: Possible trigger for asthma exacerbation. 
Home medication is PRN Benadryl. Given his report of chronic 
sinusitis and allergy symptoms in the ___, as well as annual 
asthma exacerbation (now with hospitalization), should likely be 
on suppressive therapy. He was started on Flonase and 
cetirizine.

TRANSITIONAL ISSUES:
- Total 7 day course of prednisone 40 mg, last day ___
- PFTs as an outpatient for further characterization of asthma
- Patient discharged with an albuterol rescue inhaler as he has 
intermittent exacerbations, please step up regimen as indicated
- Please counsel patient further on his alcohol use.
- Patient describes risky ETOH consumption and should be 
counseled on appropriate ETOH use
# Contact: ___ (HCP) - ___
# CODE STATUS: full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea wheeze 
2. DiphenhydrAMINE 25 mg PO PRN allergy symptoms 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea wheeze 
2. Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Fluticasone Propionate NASAL 2 SPRY NU BID 
4. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*12 Tablet 
Refills:*0
5. DiphenhydrAMINE 25 mg PO PRN allergy symptoms 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
- Asthma exacerbation

Secondary Diagnoses
- Acute kidney injury 
- Seasonal allergies

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be a part of your care team at ___ 
___. You were admitted because you were 
feeling short of breath, likely from an asthma attack. We also 
checked for the flu, which was negative. You were treated for 
asthma with nebulizers and steroids, and started to feel better. 


We think that it is important that you have good follow up for 
your asthma. We have set you up with an appointment with a 
primary care doctor and ___ lung doctor (___) to help 
create a better plan to manage your asthma. Please see below for 
more information about these appointments. 

You also should keep taking prednisone to complete a week long 
course. Please see below for more information about your 
medications. 

Again, it was very nice to meet you, and we wish you all the 
best.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___